US05552438
Methyl 4-Cyano-4-(3-Cyclopentyloxy-4-Methoxyphenyl)Cyclohex-1-ene-1Carboxylate
To a solution of 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)-1cyclohexenyl trifluoromethylsulfonate (1.0 g, 2.24 mmol) in 1:1 methanol/N,N-dimethylformamide (8 mL) were added methylamine (0.66 mL, 4.72 mmol) and tetrakis(triphenylphosphine)palladium (0.13 g, 0.11 mmol). The resulting mixture was stirred at room temperature in the dark under a carbon monoxide atmosphere for 3h. The mixture was partitioned between water and ethyl acetate, the organic extract was washed three times with water, once with brine, was dried (potassium carbonate) and was evaporated.

reactant | 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)-1cyclohexenyl trifluoromethylsulfonate | 2.24 mmol, 1.0 g | FC(F)(F)S(=O)(=O)OC1=CCC(CC1)(C1=CC(=C(C=C1)OC)OC1CCCC1)C#N | C20H22F3NO5S
reactant | methylamine | 4.72 mmol, 0.66 mL | CN | CH5N
reactant | methanol N,N-dimethylformamide | 8 mL | CO.CN(C=O)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-Cyano-4-(3-Cyclopentyloxy-4-Methoxyphenyl)Cyclohex-1-ene-1Carboxylate | C(#N)C1(CC=C(CC1)C(=O)OC)C1=CC(=C(C=C1)OC)OC1CCCC1 | C21H25NO4
